.title size_PHI_NMOS18
.include "../../../autohv_bicmos180_case.lib"
.param case=0
Vdd vdd 0 1.8
Vin in 0 PULSE(0 1.8 20n 0.02n 0.02n 80n 200n)
XI1 nIN in vdd vdd PMOS18 W=0.7u L=0.18u
XI2 nIN in 0   0   NMOS18 W=0.3u L=0.18u
XR nIN nC RPOLY_HI L=55.9375u W=0.5u
XC nC 0 CMIM_HI L=5.3600u W=5.3600u
XBP nC in vdd vdd PMOS18 W=0.6u L=0.18u
XS1 s1 nC 0   0   NMOS18 W=0.3u L=0.18u
XS2 dco nC s1 0 NMOS18 W=0.3u L=0.18u
XS3 s2 nC vdd vdd PMOS18 W=0.7u L=0.18u
XS4 dco nC s2 vdd PMOS18 W=0.7u L=0.18u
XS5 vdd dco s1 0   NMOS18 W=0.3u L=0.18u
XS6 0   dco s2 vdd PMOS18 W=0.7u L=0.18u
XPI1 dbar dco vdd vdd PMOS18 W=0.7u L=0.18u
XPI2 dbar dco 0   0   NMOS18 W=0.3u L=0.18u
XG1 nnd in   vdd vdd PMOS18 W=0.7u L=0.18u
XG2 nnd dbar vdd vdd PMOS18 W=0.7u L=0.18u
XG3 nnd in   q   0   NMOS18 W=0.3u L=0.18u
XG4 q   dbar 0   0   NMOS18 W=0.3u L=0.18u
XO1 out nnd vdd vdd PMOS18 W=0.7u L=0.18u
XO2 out nnd 0   0   NMOS18 W=0.3u L=0.18u
CL out 0 5.0f
.control
option temp=27
tran 0.02n 200n
meas tran tdr trig v(in) val=0.9 rise=1 targ v(out) val=0.9 rise=1
meas tran tdf trig v(in) val=0.9 fall=1 targ v(out) val=0.9 fall=1
meas tran pw trig v(out) val=0.9 rise=1 td=19n targ v(out) val=0.9 fall=1 td=19n
meas tran vrest find v(out) at=190n
echo "RES tdr=$&tdr tdf=$&tdf pw=$&pw vrest=$&vrest"
.endc
.end
